US04900751
(a) 2-[2-(4-Methoxy-2-pyridyl)-phenyl thio]-1H-benzimidazole
To an ice cold solution of 2-(1H-benzimidazol-2-yl thio)benzenamine (1.70 g) in dilute hydrochloric acid (11 ml) was added dropwise a solution of sodium nitrite (0.53 g) in water (5 ml), keeping the temperature below 0°. The reaction mixture was stirred at this temperature for 0.5 hours then added portionwise to a mixture of 4-methoxypyridine (42.40 g) and pyridine (0.57 g) stirring at 80° for 1 hour. The pyridines were distilled off, replaced with 880 ammonia which was in turn distilled off. The residue was treated with water, extracted into dichloromethane, washed, dried, evaporated and the residue was purified by flash column chromatography using ethyl acetate as eluant to give the sub-title product as a creamish foam, 0.20 g.

reactant | 2-(1H-benzimidazol-2-yl thio)benzenamine | 1.70 g | N1C(=NC2=C1C=CC=C2)SC2=C(C=CC=C2)N | C13H11N3S
reactant | sodium nitrite | 0.53 g | N(=O)[O-].[Na+]
reactant | 4-methoxypyridine | 42.40 g | COC1=CC=NC=C1 | C6H7NO
reactant | pyridine | 0.57 g | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 11 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 2-[2-(4-Methoxy-2-pyridyl)-phenyl thio]-1H-benzimidazole | COC1=CC(=NC=C1)C1=C(C=CC=C1)SC1=NC2=C(N1)C=CC=C2 | C19H15N3OS
